US06277849B1
A mixture of 2.0 g of (S)-2-(ethylsulfonylamino)-3methyl-butyric acid N-[2-(4hydroxy-3-methoxy-phenyl)-ethyl]-amide, 1.2 g of 2-chloro-5-chloromethylthiophene and 12 ml of a 1 M sodium methanolate solution in methanol (prepared beforehand by dissolution of 23 g of sodium in 1 liter of methanol) is heated at reflux in 30 ml of methanol for 16 hours. After cooling, the reaction mixture is introduced into 300 ml of 2N sodium hydroxide solution. Extraction is carried out twice using 400 ml of tert-butyl methyl ether each time. The organic phases are washed once with 100 ml of 2N sodium hydroxide solution and once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated, yielding (S)-2-(ethylsulfonylamino)-3-methyl-butyric acid N-{2-[4-(5-chloro-thiophen-2-yl-methoxy)-3-methoxy-phenyl]-ethyl}-amide, which can be purified by chromatography on silica gel with ethyl acetate/n-hexane 1:1 and recrystallisation from ethyl acetate/n-hexane, m.p. 124-127° C.

reactant | (S)-2-(ethylsulfonylamino)-3methyl-butyric acid N-[2-(4hydroxy-3-methoxy-phenyl)-ethyl]-amide | 2.0 g | OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NS(=O)(=O)CC)=O)OC | C16H26N2O5S
reactant | 2-chloro-5-chloromethylthiophene | 1.2 g | ClC=1SC(=CC1)CCl | C5H4Cl2S
reactant | sodium methanolate | 1 M | C[O-].[Na+]
reactant | sodium hydroxide | 2N, 300 ml | [OH-].[Na+]
solvent | methanol | 1 liter, 23 g | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | (S)-2-(ethylsulfonylamino)-3-methyl-butyric acid N-{2-[4-(5-chloro-thiophen-2-yl-methoxy)-3-methoxy-phenyl]-ethyl}-amide | ClC1=CC=C(S1)COC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NS(=O)(=O)CC)=O)OC | C21H29ClN2O5S2
